US09399637B2
Step 6) tert-butyl 8-oxo-2-azaspiro[4.5]decane-2-carboxylate
To a solution of 2-azaspiro[4.5]decan-8-one (10 g, 65.26 mmol) in a mixture of THF and H2O (3/1 (v/v), 200 mL) were added (Boc)2O (28.48 g, 130.53 mmol) and Na2CO3 (13.83 g, 130.53 mmol). The reaction mixture was stirred at rt for 2 h, then quenched with H2O (200 mL) and extracted with EtOAc (300 mL×3). The combined organic phases were washed with brine (500 mL), dried over Na2SO4, concentrated in vacuo. The residue was purified by silica gel column chromatography (EtOAc/PE (v/v)=1/10) to give the product as colorless oil (9 g, 54.5%).

reactant | 2-azaspiro[4.5]decan-8-one | 65.26 mmol, 10 g | C1NCCC12CCC(CC2)=O | C9H15NO
reactant | (Boc)2O | 130.53 mmol, 28.48 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | Na2CO3 | 130.53 mmol, 13.83 g | C(=O)([O-])[O-].[Na+].[Na+]
solvent | THF | C1CCOC1 | C4H8O
solvent | H2O | 200 mL | O | H2O
product | tert-butyl 8-oxo-2-azaspiro[4.5]decane-2-carboxylate | 9 g, 54.5% | O=C1CCC2(CCN(C2)C(=O)OC(C)(C)C)CC1 | C14H23NO3
